US06291685B1
5-Methyl-4-[2-(7-amino-benzothiophene-4-yloxy)-ethyl]-2-phenyl-oxazole
50 g (1.052 mol) of 5-methyl-4-[2-(7-nitro-benzothiophene-4-yloxy)-ethyl]-2-phenyl-oxazole were solved in 1 l of THF at 20 to 25° C. 75 ml Lewatit M 600 (OH−form) (Bayer AG) were washed with about 100 ml THF, added to the 5-methyl-4-[2-(7-nitro-benzothiophene-4-yloxy)-ethyl]-2-phenyl-oxazole solution and stirred at room temperature for 1 hour. Then the Lewatit M 600 material was filtered with suction and washed with 100 ml THF. 12.5 g of Raney nickel were added to the combined THF solutions followed by hydrogenation of the 5-methyl-4-[2-(7-nitro-benzothiophene-4-yloxy)-ethyl]-2-phenyl-oxazole at standard pressure. The temperature of the reaction mixture should not exceed 35 to 40° C. Hydrogen pressure was increased to 6 bar within 6 hours. After hydrogenation the reaction mixture was stirred for 1 hour. Then the catalyst was filtered with suction, the THF was distilled off, 180 ml ethanol was added and the residue was boiled out for 30 minutes. The reaction mixture was stirred at 0° C. for 1 hour. The precipitate was filtered with suction and the residue was washed with 25 ml ethanol and dried for 24 hours at 50° C. (vacuum).

reactant | 5-methyl-4-[2-(7-nitro-benzothiophene-4-yloxy)-ethyl]-2-phenyl-oxazole | 1.052 mol, 50 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(C2=C1C=CS2)[N+](=O)[O-] | C20H16N2O4S
solvent | THF | 1 l | C1CCOC1 | C4H8O
product | 5-Methyl-4-[2-(7-amino-benzothiophene-4-yloxy)-ethyl]-2-phenyl-oxazole | CC1=C(N=C(O1)C1=CC=CC=C1)CCOC1=CC=C(C2=C1C=CS2)N | C20H18N2O2S
